US04451471
100 g of 4,3-bis-(p-methoxyphenyl)-thiazoline-2-thione are dissolved in 320 ml of 2 N sodium hydroxide solution while stirring. 45 ml of 2-bromoethanol are then added, the mixture is stirred at room temperature for 15 minutes, 500 ml of methylene chloride are added, the mixture is filtered through diatomaceous earth, the organic layer is removed and extracted by washing with 200 ml of 2 N sodium hydroxide solution. The combined aqueous phases are subsequently extracted twice with methylene chloride. The organic phases are combined, dried over magnesium sulphate and concentrated by evaporation under reduced pressure. The remaining oil is dissolved in 700 ml of hot diethyl ether, stirred for 1 hour and caused to crystallise at 10°. The crystals are filtered with suction, then washed twice with 150 ml of ice-cold diethyl ether each time and dried under reduced pressure. 2-(2-Hydroxyethylthio)-4,5-bis-(p-methoxyphenyl)-thiazole having a melting point of 82°-83° is obtained.

reactant | 4,3-bis-(p-methoxyphenyl)-thiazoline-2-thione | 100 g | COC1=CC=C(C=C1)C=1N(C(SC1)=S)C1=CC=C(C=C1)OC | C17H15NO2S2
reactant | 2-bromoethanol | 45 ml | BrCCO | C2H5BrO
reactant | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | sodium hydroxide | 2 N, 320 ml | [OH-].[Na+]
product | 2-(2-Hydroxyethylthio)-4,5-bis-(p-methoxyphenyl)-thiazole | OCCSC=1SC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C19H19NO3S2
